* C:\Users\quita\Documents\PAD_2023.02.01 Qumkuat SS22\OpenSPD\simulations\OpenSPD_LTSpice.asc
XU1 0 N003 N004 +3.3V -3.3V NC_01 LTC6228
V1 -3.3V 0 -3.3V
V2 +3.3V 0 +3.3V
R2 N004 N003 510
V3 N005 0 PULSE(0 -0.1 2ns 0 0 5ns 50ns) Rser=0
R1 N003 N006 100
XU2 N004 N001 N002 +3.3V -3.3V NC_02 LTC6228
R3 N002 N001 33
R5 N001 0 22
C2 N002 N001 330pF
R7 N006 N005 50
R8 N010 N007 1K
D1 N011 N010 RB751SM-40
R9 +3.3V N008 15K
R10 N008 0 150
C1 N008 0 1nF
XU3 N007 N008 NC_03 +3.3V 0 N009 ADCMP601
XU4 N012 N013 NC_04 +3.3V 0 N011 ADCMP601
R11 N009 N012 6.8K
R12 N012 0 2.2K
R13 N011 N012 22K
C3 N013 0 33pF
R14 N013 N011 1K
R4 N007 N002 51
.model D D
.lib C:\Users\quita\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200ns
.lib C:\Users\quita\Documents\PAD_2023.02.01 Qumkuat SS22\Simulaciones LT-Spice\lib\adcmp601.SUBCKT
.lib LTC6228.lib
.backanno
.end
